US05547967
2 g of 3-[5-(3-methoxyphenyl)-1,2,4-thiadiazole-3-oxy]-propyl chloride [for preparation, see Example 65 E)] were dissolved in 100 ml dichloromethane. A solution of 20 ml borotribromide in dichloromethane was added to the solution and the reaction mixture was stirred for 8 hours at room temperature under a nitrogen atmosphere. Then the reaction mixture was poured into water for workup and made alkaline by adding sodium carbonate. Then extraction was performed with dichloromethane and the organic phase was dried and concentrated. 1.9 g of crude 3-[5-(3-hydroxyphenyl)-1,2,4-thiadiazole-3-yloxy]-propyl chloride was obtained as a yellow oil.

reactant | 3-[5-(3-methoxyphenyl)-1,2,4-thiadiazole-3-oxy]-propyl chloride | 2 g | COC=1C=C(C=CC1)C1=NC(=NS1)OCCCCl | C12H13ClN2O2S
reactant | water | O | H2O
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 3-[5-(3-hydroxyphenyl)-1,2,4-thiadiazole-3-yloxy]-propyl chloride | 1.9 g | OC=1C=C(C=CC1)C1=NC(=NS1)OCCCCl | C11H11ClN2O2S
